US05132310
rac-3,4-Dihydro-2-[(3-methoxyphenyl)ethynyl]-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol.
Reaction of 1.15 g (5 mmol) of rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol and 1.5 ml (12.5 mmol) of 3-methoxy-iodobenzene as described in Example 4 yielded after isolation by chromatography over 60 g of silica gel with methylene chloride and crystallization from ether/hexane 1.05 g (62.5%) of colorless crystals with m.p. 108°-112° C.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | 5 mmol, 1.15 g | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 3-methoxy-iodobenzene | 12.5 mmol, 1.5 ml | COC=1C=C(C=CC1)I | C7H7IO
product | rac-3,4-Dihydro-2-[(3-methoxyphenyl)ethynyl]-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | COC=1C=C(C=CC1)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C22H24O3
